US09085583B2
To a stirred solution of 2-methyl-1H-pyrrolo[2,3-c]pyridine (2.5 g, 18.9 mmol) and aluminum chloride (5 g, 37.8 mmol) in DCM (100 mL), trichloroacetylchloride (4.1 g, 22.7 mmol) was added dropwise into the reaction over 0.5 hours at room temperature. After stirring 2 hours, the reaction was cooled to 0° C. and was quenched with water (100 mL). The resulting precipitate was isolated by filtration to afford 2,2,2-trichloro-1-(2-methyl-1H-pyrrolo[2,3-c]pyridin-3-yl)ethanone which was used for next step without further purification. Assumed 100% yield. (5.24 g).

reactant | 2-methyl-1H-pyrrolo[2,3-c]pyridine | 18.9 mmol, 2.5 g | CC1=CC=2C(=CN=CC2)N1 | C8H8N2
reactant | aluminum chloride | 37.8 mmol, 5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trichloroacetylchloride | 22.7 mmol, 4.1 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trichloro-1-(2-methyl-1H-pyrrolo[2,3-c]pyridin-3-yl)ethanone | 100% yield | ClC(C(=O)C1=C(NC2=CN=CC=C21)C)(Cl)Cl | C10H7Cl3N2O
